**************************************************
* Manufacturer:          Würth Elektronik
* Kinds:                 Push-Pull Transformers
* Matchcode:             WE-PPTI
* Library Type:          LTspice
* Version:               rev25c
* Created/modified by:   Ella
* Date and Time:         2025-11-14
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	750320528		1  3  2  4  8  6  7  5		
.param RxLkg=208.4ohm					
.param Leakage=0.4uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	3	76.55uH	Rser=82mohm	
Lpri2	2a	4	76.55uH	Rser=82mohm	
Lsec1	8	6	145.105uH	Rser=170.1mohm	
Lsec2	7	5	145.105uH	Rser=170.1mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=60pf					
.param Cprm2=60pf					
.param Rdmp1=39986.88ohm					
.param Rdmp2=39986.88ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Cpri2	2	4	{Cprm2}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rdmp2	2	4	{Rdmp2}		
Rg3	1	0	20meg		
Rg4	2	0	20meg		
Rg7	3	0	20meg		
Rg8	4	0	20meg		
Rg11	8	0	20meg		
Rg12	7	0	20meg		
Rg19	6	0	20meg		
Rg20	5	0	20meg		
.ends					

.subckt	750320396		4  2  3  1  5  7  6  8		
.param RxLkg=988.9ohm					
.param Leakage=1uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	144.75uH	Rser=250mohm	
Lpri2	3a	1	144.75uH	Rser=250mohm	
Lsec1	5	7	25.217uH	Rser=47mohm	
Lsec2	6	8	25.217uH	Rser=47mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=8.8pf					
.param Cprm2=8.8pf					
.param Rdmp1=143638.34ohm					
.param Rdmp2=143638.34ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320397		4  2  3  1  5  7  6  8		
.param RxLkg=858.47ohm					
.param Leakage=1.04uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	136.183uH	Rser=127.5mohm	
Lpri2	3a	1	136.183uH	Rser=127.5mohm	
Lsec1	5	7	46.517uH	Rser=69mohm	
Lsec2	6	8	46.517uH	Rser=69mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=13.42pf					
.param Cprm2=13.42pf					
.param Rdmp1=112840.69ohm					
.param Rdmp2=112840.69ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320398		4  2  3  1  5  7  6  8		
.param RxLkg=357.17ohm					
.param Leakage=0.4796uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	75.595uH	Rser=135mohm	
Lpri2	3a	1	75.595uH	Rser=135mohm	
Lsec1	5	7	113.284uH	Rser=142mohm	
Lsec2	6	8	113.284uH	Rser=142mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=29.72pf					
.param Cprm2=29.72pf					
.param Rdmp1=56476.38ohm					
.param Rdmp2=56476.38ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320399		4  2  3  1  5  7  6  8		
.param RxLkg=326.83ohm					
.param Leakage=0.526uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	76.642uH	Rser=108.5mohm	
Lpri2	3a	1	76.642uH	Rser=108.5mohm	
Lsec1	5	7	160.456uH	Rser=171mohm	
Lsec2	6	8	160.456uH	Rser=171mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=42.1pf					
.param Cprm2=42.1pf					
.param Rdmp1=47784.96ohm					
.param Rdmp2=47784.96ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320375		4  2  3  1  5  7  6  8		
.param RxLkg=757.61ohm					
.param Leakage=1.433uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	211.034uH	Rser=254mohm	
Lpri2	3a	1	211.034uH	Rser=254mohm	
Lsec1	5	7	113.874uH	Rser=168mohm	
Lsec2	6	8	113.874uH	Rser=168mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=21.12pf					
.param Cprm2=21.12pf					
.param Rdmp1=111949.27ohm					
.param Rdmp2=111949.27ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320383		4  2  3  1  5  7  6  8		
.param RxLkg=631.59ohm					
.param Leakage=1.4uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	223.453uH	Rser=257mohm	
Lpri2	3a	1	223.453uH	Rser=257mohm	
Lsec1	5	7	439.339uH	Rser=553mohm	
Lsec2	6	8	439.339uH	Rser=553mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=27.4pf					
.param Cprm2=27.4pf					
.param Rdmp1=101123.93ohm					
.param Rdmp2=101123.93ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320400		4  2  3  1  5  7  6  8		
.param RxLkg=159.2ohm					
.param Leakage=0.49uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	80.2uH	Rser=134.85mohm	
Lpri2	3a	1	80.2uH	Rser=134.85mohm	
Lsec1	5	7	437.978uH	Rser=476.5mohm	
Lsec2	6	8	437.978uH	Rser=476.5mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=147.2pf					
.param Cprm2=147.2pf					
.param Rdmp1=26136.86ohm					
.param Rdmp2=26136.86ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320402		4  2  3  1  5  7  6  8		
.param RxLkg=1819.19ohm					
.param Leakage=3.4uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	268.158uH	Rser=208.5mohm	
Lpri2	3a	1	268.158uH	Rser=208.5mohm	
Lsec1	5	7	9.487uH	Rser=38.55mohm	
Lsec2	6	8	9.487uH	Rser=38.55mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=16.18pf					
.param Cprm2=16.18pf					
.param Rdmp1=144389.2ohm					
.param Rdmp2=144389.2ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320401		4  2  3  1  5  7  6  8		
.param RxLkg=114.9ohm					
.param Leakage=0.5369uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	101.499uH	Rser=174mohm	
Lpri2	3a	1	101.499uH	Rser=174mohm	
Lsec1	5	7	849.319uH	Rser=875.5mohm	
Lsec2	6	8	849.319uH	Rser=875.5mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=268.2pf					
.param Cprm2=268.2pf					
.param Rdmp1=21778.78ohm					
.param Rdmp2=21778.78ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320403		4  2  3  1  5  7  6  8		
.param RxLkg=1081.68ohm					
.param Leakage=2.38uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	306.31uH	Rser=382mohm	
Lpri2	3a	1	306.31uH	Rser=382mohm	
Lsec1	5	7	23.727uH	Rser=59mohm	
Lsec2	6	8	23.727uH	Rser=59mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=19.68pf					
.param Cprm2=19.68pf					
.param Rdmp1=139755.04ohm					
.param Rdmp2=139755.04ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320404		4  2  3  1  5  7  6  8		
.param RxLkg=840.53ohm					
.param Leakage=1.57uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	229.965uH	Rser=269mohm	
Lpri2	3a	1	229.965uH	Rser=269mohm	
Lsec1	5	7	73.011uH	Rser=138.55mohm	
Lsec2	6	8	73.011uH	Rser=138.55mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=18.9pf					
.param Cprm2=18.9pf					
.param Rdmp1=123536.94ohm					
.param Rdmp2=123536.94ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750320405		4  2  3  1  5  7  6  8		
.param RxLkg=777.43ohm					
.param Leakage=1.29uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	3	3a	{RxLkg/2}		
L_Lkg2	3	3a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	2	211.803uH	Rser=288.5mohm	
Lpri2	3a	1	211.803uH	Rser=288.5mohm	
Lsec1	5	7	272.877uH	Rser=360mohm	
Lsec2	6	8	272.877uH	Rser=360mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=16.2pf					
.param Cprm2=16.2pf					
.param Rdmp1=128033.19ohm					
.param Rdmp2=128033.19ohm					
Cpri1	4	2	{Cprm1}	Rser=10mohm	
Cpri2	3	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	2	{Rdmp1}		
Rdmp2	3	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					
