**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Flat wire inductor
* Matchcode:              WE-SFIA
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella
* Date and Time:          02/25/2026
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 2010_784364210033_0.33u 1 2
Rp 1 2 238
Cp 1 2 2p
Rs 1 N3 0.001
L1 N3 2 0.343u
.ends 2010_784364210033_0.33u
*******
.subckt 2010_784364210047_0.47u 1 2
Rp 1 2 227.674
Cp 1 2 1.546p
Rs 1 N3 0.001
L1 N3 2 0.448525u
.ends 2010_784364210047_0.47u
*******
.subckt 2010_784364210068_0.68u 1 2
Rp 1 2 229
Cp 1 2 5p
Rs 1 N3 0.001
L1 N3 2 0.708u
.ends 2010_784364210068_0.68u
*******
.subckt 2013_784364210082_0.82u 1 2
Rp 1 2 729
Cp 1 2 2p
Rs 1 N3 0.0019
L1 N3 2 0.789u
.ends 2013_784364210082_0.82u
*******
.subckt 2013_784364210100_1u 1 2
Rp 1 2 732
Cp 1 2 3p
Rs 1 N3 0.0019
L1 N3 2 1u
.ends 2013_784364210100_1u
*******
.subckt 2013_784364210150_1.5u 1 2
Rp 1 2 737
Cp 1 2 3p
Rs 1 N3 0.0019
L1 N3 2 1u
.ends 2013_784364210150_1.5u
*******
.subckt 2013_784364210220_2.2u 1 2
Rp 1 2 768
Cp 1 2 4p
Rs 1 N3 0.0019
L1 N3 2 2u
.ends 2013_784364210220_2.2u
*******
.subckt 2016_784364210360_3.6u 1 2
Rp 1 2 1000
Cp 1 2 4p
Rs 1 N3 0.0028
L1 N3 2 3u
.ends 2016_784364210360_3.6u
*******
.subckt 2016_784364210400_4u 1 2
Rp 1 2 1000
Cp 1 2 3p
Rs 1 N3 0.0028
L1 N3 2 3u
.ends 2016_784364210400_4u
*******
.subckt 2016_784364210470_4.7u 1 2
Rp 1 2 1000
Cp 1 2 4p
Rs 1 N3 0.0028
L1 N3 2 4u
.ends 2016_784364210470_4.7u
*******
