**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Radial Leaded Wire Wound Inductor (High Voltage)
* Matchcode:              WE-TI HV
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt 8095_768772332_3300u 1 2
Rp 1 2 363135
Cp 1 2 8.894p
Rs 1 N3 5.9
L1 N3 2 4054u
.ends 8095_768772332_3300u
*******
.subckt 8095_768772102_1000u 1 2
Rp 1 2 181620
Cp 1 2 6.465p
Rs 1 N3 1.7
L1 N3 2 1100.603u
.ends 8095_768772102_1000u
*******
.subckt 8095_768772122_1200u 1 2
Rp 1 2 316494
Cp 1 2 6.842p
Rs 1 N3 2.2
L1 N3 2 1317u
.ends 8095_768772122_1200u
*******
.subckt 8095_768772152_1500u 1 2
Rp 1 2 216803
Cp 1 2 6.916p
Rs 1 N3 2.6
L1 N3 2 1639u
.ends 8095_768772152_1500u
*******
.subckt 8095_768772182_1800u 1 2
Rp 1 2 251829
Cp 1 2 5.775p
Rs 1 N3 2.7
L1 N3 2 1947u
.ends 8095_768772182_1800u
*******
.subckt 8095_768772221_220u 1 2
Rp 1 2 103071
Cp 1 2 8.181p
Rs 1 N3 0.36
L1 N3 2 215.391u
.ends 8095_768772221_220u
*******
.subckt 8095_768772222_2200u 1 2
Rp 1 2 311737
Cp 1 2 6.693p
Rs 1 N3 3.9
L1 N3 2 2401u
.ends 8095_768772222_2200u
*******
.subckt 8095_768772331_330u 1 2
Rp 1 2 151318
Cp 1 2 6.826p
Rs 1 N3 0.6
L1 N3 2 323.154u
.ends 8095_768772331_330u
*******
.subckt 8095_768772471_470u 1 2
Rp 1 2 200472
Cp 1 2 6.163p
Rs 1 N3 0.82
L1 N3 2 457.144u
.ends 8095_768772471_470u
*******
.subckt 8095_768772681_680u 1 2
Rp 1 2 165945
Cp 1 2 6.691p
Rs 1 N3 1.2
L1 N3 2 625.828u
.ends 8095_768772681_680u
*******
.subckt 8095_768772821_820u 1 2
Rp 1 2 168854
Cp 1 2 8.003p
Rs 1 N3 1.4
L1 N3 2 789.634u
.ends 8095_768772821_820u
*******
.subckt 1014_7687480121_120u 1 2
Rp 1 2 54146
Cp 1 2 15.693p
Rs 1 N3 0.12
L1 N3 2 106.249u
.ends 1014_7687480121_120u
*******
.subckt 1014_7687480471_470u 1 2
Rp 1 2 97125
Cp 1 2 13.141p
Rs 1 N3 0.44
L1 N3 2 442.567u
.ends 1014_7687480471_470u
*******
.subckt 1014_7687480681_680u 1 2
Rp 1 2 155542
Cp 1 2 12.602p
Rs 1 N3 0.72
L1 N3 2 652.415u
.ends 1014_7687480681_680u
*******
.subckt 1014_7687480102_1000u 1 2
Rp 1 2 134672
Cp 1 2 15.254p
Rs 1 N3 1
L1 N3 2 924.407u
.ends 1014_7687480102_1000u
*******
.subckt 1014_7687480122_1200u 1 2
Rp 1 2 191169
Cp 1 2 13.061p
Rs 1 N3 1.15
L1 N3 2 1139u
.ends 1014_7687480122_1200u
*******
.subckt 1014_7687480152_1500u 1 2
Rp 1 2 163625
Cp 1 2 13.675p
Rs 1 N3 1.5
L1 N3 2 1400u
.ends 1014_7687480152_1500u
*******
.subckt 1014_7687480182_1800u 1 2
Rp 1 2 255414
Cp 1 2 12.091p
Rs 1 N3 1.8
L1 N3 2 1686u
.ends 1014_7687480182_1800u
*******
.subckt 1014_7687480222_2200u 1 2
Rp 1 2 182952
Cp 1 2 13.846p
Rs 1 N3 2
L1 N3 2 2048u
.ends 1014_7687480222_2200u
*******
.subckt 1014_7687480332_3300u 1 2
Rp 1 2 269264
Cp 1 2 13.902p
Rs 1 N3 3.6
L1 N3 2 3197u
.ends 1014_7687480332_3300u
*******
.subckt 1014_7687480472_4700u 1 2
Rp 1 2 311416
Cp 1 2 13.936p
Rs 1 N3 4.8
L1 N3 2 4542u
.ends 1014_7687480472_4700u
*******
